* D:\Disco D\universita\magistrale\progettazione-low-power\progetti\progetto-2\ltspice\models\snm-standard\write\snm_standard_write.asc
M3 Qneg Q 0 0 EECMOSN l={l_nmos_q_neg} w={w_nmos_q_neg}
M4 VDD Q Qneg VDD EECMOSP l={l_pmos_q_neg} w={w_pmos_q_neg}
Vdd VDD 0 {vdd}
Vsweep Qneg 0 {vsweep}
M5 Q Qneg 0 0 EECMOSN l={l_nmos_q} w={w_nmos_q}
M6 VDD Qneg Q VDD EECMOSP l={l_pmos_q} w={w_pmos_q}
M7 Q WL BL 0 EECMOSN l={l_ax} w={w_ax}
M8 BLneg WL Qneg 0 EECMOSN l={l_ax} w={w_ax}
Vblneg BLneg 0 {vblneg}
Vbl BL 0 {vbl}
Vwl WL 0 {vwl}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\giorg\AppData\Local\LTspice\lib\cmp\standard.mos
* Simulation setup to get the SNM of an SRAM cell. Butterfly curve plotted manually
.backanno
.end
